US04421758
To a solution of 259 mg of α-bromomethyl-4-chlorobenzyl alcohol and 311 mg of 2-(2,4-dichlorophenoxymethyl)-3,4-dihydro-2H-pyran in 6 ml of diethyl ether was added one drop of phosphorus oxytrichloride, and the mixture was stirred at room temperature for 1 day. After 3 drops of triethylamine had been added, the solvent was evaporated off under reduced pressure and the residue was purified by column chromatography through silica gel eluted with a 5:50:11 by volume mixture of benzene, hexane and ethyl acetate, to give 147 mg of the isomer of lesser polarity of trans-6-(2,4-dichlorophenoxymethyl)-2-[2-bromo-1-(4-chlorophenyl)ethoxy]tetrahydropyran melting at 86°-87° C., 165 mg of the isomer of greater polarity melting at 97°-98° C., and 80 mg of a mixture thereof.

reactant | α-bromomethyl-4-chlorobenzyl alcohol | 259 mg | BrCC(C1=CC=C(C=C1)Cl)O | C8H8BrClO
reactant | 2-(2,4-dichlorophenoxymethyl)-3,4-dihydro-2H-pyran | 311 mg | ClC1=C(OCC2OC=CCC2)C=CC(=C1)Cl | C12H12Cl2O2
solvent | diethyl ether | 6 ml | C(C)OCC | C4H10O
catalyst | phosphorus oxytrichloride | one drop | O=P(Cl)(Cl)Cl | Cl3OP
catalyst | triethylamine | 3 drops | C(C)N(CC)CC | C6H15N
product | trans-6-(2,4-dichlorophenoxymethyl)-2-[2-bromo-1-(4-chlorophenyl)ethoxy]tetrahydropyran | 165 mg | ClC1=C(OC[C@H]2CCC[C@@H](O2)OC(CBr)C2=CC=C(C=C2)Cl)C=CC(=C1)Cl | C20H20BrCl3O3
